US06562989B2
Ethyl 2-(4-Trifluoromethylphenyl)cyanoacetate (Table 22, Entry 1)
Method A of the above general procedure was followed using 4-bromobenzotrifluoride (226 mg, 1.01 mmol), ethyl cyanoacetate (123 mg, 1.09 mmol), pentaphenylferrocenyl ligand (14 mg, 0.020 mmol) and Pd(dba)2 (6.0 mg, 0.010 mmol). The reaction mixture was purified by column chromatography on silica gel (1:3 dichloromethane/hexanes) to give the desired product (213 mg, 82%) as a colorless oil: 1H NMR (CDCl3) δ 7.71-7.69 (m, 2H), 7.63-7.60 (m, 2H), 4.80 (s, 1H), 4.27 (dq, 7.2, 1.2 Hz, 2H), 1.30 (t, 7.2 Hz, 3H). 13C{1H} NMR (CDCl3) δ 164.28, 133.81, 131.66 (q, 33.0 Hz), 128.55, 126.38 (q, 3.7 Hz), 123.68 (q, 272.3 Hz), 115.00, 63.78, 43.52, 13.89.

reactant | 4-bromobenzotrifluoride | 1.01 mmol, 226 mg | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | ethyl cyanoacetate | 1.09 mmol, 123 mg | C(#N)CC(=O)OCC | C5H7NO2
catalyst | Pd(dba)2 | 0.010 mmol, 6.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | Ethyl 2-(4-Trifluoromethylphenyl)cyanoacetate | 213 mg, 82% | FC(C1=CC=C(C=C1)C(C(=O)OCC)C#N)(F)F | C12H10F3NO2
